US03931177
A stirred mixture of dry acetone (50 ml), 6-(4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (7 g, 0.037 mole), allyl bromide (3.2 ml, 0.037 mole) and potassium carbonate (5.1 g, 0.037 mole) was heated under reflux for 14 hours. The mixture was diluted with acetone and filtered hot. The inorganic residue was washed with warm acetone and the combined washings and filtrate were evaporated under reduced pressure. The residue was broken up with ether, collected and washed with ether to give 6-(4-allyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (6.88 g, 81%, m.p. 130.5°-132°C). Recrystallisation from methanol gave fine white needles of m.p. 134°-135°C.

reactant | 6-(4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 0.037 mole, 7 g | OC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H10N2O2
reactant | allyl bromide | 0.037 mole, 3.2 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.037 mole, 5.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-(4-allyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 6.88 g, 81% | C(C=C)OC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N2O2
